US06677352B1
MeI (0.10 mL, 228 mg, 1.6 mmol) was added to a stirred suspension of K2CO3 (23.5 mg, 0.17 mmol) and 2-anilino-7-chloro-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (50 mg, 0.14 mmol) in THF (3 mL). The suspension was heated to 40° C. and stirred was overnight. The reaction was quenched with water (5.0 mL) and extracted with EtOAc. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. Recrystallization of the residue using EtOAc afforded 7-chloro-5-methyl-2-[methyl(phenyl)amino]-1-phenyl-1,8-naphthyridin-4(1H)-one (18 mg, 35%): LCMS RT: 2.24 min, MH+: 376.6, Rf=0.76 (4:1 Hex:EtOAc).

reactant | MeI | 1.6 mmol, 0.10 mL, 228 mg | CI | CH3I
reactant | K2CO3 | 0.17 mmol, 23.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-anilino-7-chloro-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 0.14 mmol, 50 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C)Cl)C1=CC=CC=C1 | C21H16ClN3O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-chloro-5-methyl-2-[methyl(phenyl)amino]-1-phenyl-1,8-naphthyridin-4(1H)-one | 18 mg, 35% | ClC1=CC(=C2C(C=C(N(C2=N1)C1=CC=CC=C1)N(C1=CC=CC=C1)C)=O)C | C22H18ClN3O
